US09337358B2
2,5-Bis(3-tetradecoxycarbonyl-2-thienyl)-thiazolo[5,4-d]thiazole
To a 25 mL flask were added 0.978 g (2.8 mmol) of tetradecyl-2-formylthiophene-3-carboxylate and 110 mg (0.9 mmol) of dithiooxamide. This mixture was heated to 200° C. for 2 hours. The resulting mixture was purified by column chromatography using a mixture of hexane and dichloromethane to give the desired compound. The NMR data were obtained and were consistent with those of the desired compound.

reactant | tetradecyl-2-formylthiophene-3-carboxylate | 2.8 mmol, 0.978 g | C(CCCCCCCCCCCCC)OC(=O)C1=C(SC=C1)C=O | C20H32O3S
reactant | dithiooxamide | 0.9 mmol, 110 mg | NC(=S)C(=S)N | C2H4N2S2
product | 2,5-Bis(3-tetradecoxycarbonyl-2-thienyl)-thiazolo[5,4-d]thiazole | C(CCCCCCCCCCCCC)OC(=O)C1=C(SC=C1)C=1SC=2N=C(SC2N1)C=1SC=CC1C(=O)OCCCCCCCCCCCCCC | C42H62N2O4S4
